US07223788B2
tert-Butyl (2-diethylaminoethyl)-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate
tert-Butyl [(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate (6.0 g) was dissolved in 50 ml of N,N-dimethylformamide and, after addition of sodium hydride (1.1 g), stirred at room temperature for 30 minutes, and subsequently chlorethyldiethylamine hydrochloride (4.1 g) was added. The mixture was subsequently stirred at room temperature with exclusion of moisture for 4 hours. The reaction was stopped by adding water (50 ml), and this was followed by extraction with ethyl acetate (3×50 ml) and drying of the combined organic phases over magnesium sulfate, and removal of the solvent. This resulted in the product with the molecular weight of 406.53 (C21H34N4O4); MS (ESI): 407 (M+H+).

reactant | tert-Butyl [(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate | 6.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C15H21N3O4
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | chlorethyldiethylamine hydrochloride | 4.1 g | Cl.ClCCN(CC)CC
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (2-diethylaminoethyl)-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate | C(C)N(CCN(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CC | C21H34N4O4
